US07884109B2
(R)-tert-Butyl 5,6,7,8-tetrahydroquinoxalin-5-ylcarbamate.
A solution of (R)-tert-butyl acetyl(5,6,7,8-tetrahydroquinoxalin-5-yl)carbamate (293 mg) in methanol (10 mL) was treated with hydrazine hydrate (0.5 mL) for 1.5 h. The mixture was diluted with EtOAc and washed twice with saturated aqueous sodium chloride. The organic layer was separated, dried with sodium sulfate, and concentrated in vacuo to provide 238 mg of the title compound.

reactant | (R)-tert-butyl acetyl(5,6,7,8-tetrahydroquinoxalin-5-yl)carbamate | 293 mg | C(C)(=O)N(C(OC(C)(C)C)=O)[C@H]1C=2N=CC=NC2CCC1 | C15H21N3O3
reactant | hydrazine hydrate | 0.5 mL | O.NN
solvent | methanol | 10 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-tert-Butyl 5,6,7,8-tetrahydroquinoxalin-5-ylcarbamate | 238 mg | N1=CC=NC=2[C@@H](CCCC12)NC(OC(C)(C)C)=O | C13H19N3O2
